US06248740B1
6-(3-Chloropropionamido)[1,2,4]triazolo[1,5-b]pyridazine
6-Amino[1,2,4]triazolo[1,5-b]pyridazine (0.80 g) was dissolved in N,N-dimethylacetamide (7 ml), followed by addition of 3-chloropropionylchloride (0.68 ml) under ice-cooling. The mixture was stirred at room temperature for 1 hour and poured into ice-water, followed by extraction with a mixture of ethyl acetate and tetrahydrofuran (1:1). The extract was washed with an aqueous sodium chloride saturated solution, dried over magnesium sulfate and concentrated under reduced pressure. Ethyl ether was added to the residue. The resulting crystals were collected by filtration and dried to yield the title compound (0.875 g).

reactant | 6-Amino[1,2,4]triazolo[1,5-b]pyridazine | 0.80 g | NC=1C=CC=2N(N1)N=CN2 | C5H5N5
reactant | 3-chloropropionylchloride | 0.68 ml | ClCCC(=O)Cl | C3H4Cl2O
solvent | N,N-dimethylacetamide | 7 ml | CN(C(C)=O)C | C4H9NO
product | 6-(3-Chloropropionamido)[1,2,4]triazolo[1,5-b]pyridazine | 0.875 g | ClCCC(=O)NC=1C=CC=2N(N1)N=CN2 | C8H8ClN5O
